### PR TITLE
[ new ] symmetric core of a binary relation

### PR DESCRIPTION
**Pull request by laMudri**
Addresses #2070. The name of the central definition is based on that of the [core groupoid](https://ncatlab.org/nlab/show/core+groupoid). It is distinct from the symmetric closure; the symmetric core is a smaller relation than the original, while the symmetric closure is larger.

I put `Proset` in the same file as everything else, but maybe it should be in the main `Relation.Binary.Bundles` file.

I intended to use `Relation.Binary.Construct.Intersection`, but found that the unification behaviour of `_∩_` in conjunction with `Reflexive`, `Symmetric`, &c was poor. I don't like the names of the fields in `SymCore`, and maybe they could be something better, or even just `proj₁` and `proj₂`. It would be nice if `_∩_` were defined as a record type, but that would be a somewhat breaking change.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
Pity about the category theoretic terminology trumping the more classical (in the theory of relational algebra/preorders) counterpart to 'closure', viz. 'interior'... with the guarantee that while a closure is the 'least thing containing the thing satisfying ...', the interior is the 'greatest thing contained in the thing satisfying...'

Does your development explicitly prove such a characterisation? If not, could you please add such a universal property?

**Comment by laMudri** [comment]
I'm happy to change to `SymInterior` now I know the word. I'll also give the characterisation proofs a go.

**Comment by jamesmckinna** [comment]
Oh: and (again, personal taste) truly perverse field names in the record. Must we? I think `sdloh` (trying to pronounce it) would try the patience of a saint... `snoc` it most certainly is *not*...

Elsewhere, the library standardises on `to`/`from`, or variations thereon (`xRy` and `yRx` perhaps?) but 'surely' not this!?

**Comment by jamesmckinna** [comment]
How about:
* `holds` $\mapsto$ `LHS≤RHS`
* `op-holds` $\mapsto$ `RHS≤LHS`

being:
* unambiguous, moreover rendering the sense (in a way that `holds` does not? cf `proof` in #1948/#1919)
* symbolic/abstract (we intend a proset/partial order `_≤_` but are otherwise uncommitted; we intend two terms, but are otherwise uncommitted to anything other than their relative positions/occurrences wrt `_≤_`)
* standardised apart from any other field names (potentially) frequently occurring elsewhere

**Comment by laMudri** [comment]
Okay, yeah, that seems like an improvement. I went for lowercase names, because that's the convention, and I think it slightly improves legibility. Lack of legibility seems like the biggest argument against these names.

File: CHANGELOG.md [hunk 1]
```diff
@@ -1749,6 +1749,11 @@ New modules
   Function.Indexed.Bundles
   ```
 
+* Symmetric core of a binary relation
+  ```
+  Relation.Binary.Construct.SymmetricCore
```
Comment (jamesmckinna) [inline CHANGELOG.md:1754]: `Core` $\mapsto$ `Interior`... ;-)

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+-- Properties
+
+-- The symmetric interior is symmetric.
+symmetric : Symmetric (SymInterior R)
+symmetric (r , r′) = r′ , r
+
+-- The symmetric interior of R is greater than (or equal to) any other symmetric
+-- relation contained by R.
+unfold : Symmetric S → S ⇒ R → S ⇒ SymInterior R
+unfold sym f s = f s , f (sym s)
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:43]: `unfold` is usually reserved for a definition/function/proof which witnesses the equational unfolding/rewrite property of a... function

.. as such, it seems sub-optimal here.

Why not `interior-greatest` or `sym$\subseteq$interior` or even `symmetric⇒interior`...?

Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:43]: Or even `interior⁺` (it's a 'constructor'/introduction rule along the axis of relational implication...)?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+
+-- SymInterior preserves various properties.
+reflexive : Reflexive R → Reflexive (SymInterior R)
+reflexive refl = refl , refl
+
+transitive′ : Trans R S T → Trans S R T →
+  Trans (SymInterior R) (SymInterior S) (SymInterior T)
+transitive′ trans trans′ (r , r′) (s , s′) = trans r s , trans′ s′ r′
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:51]: I'd be tempted to have the defn be called `trans′` ("\'" throughout, not "'" as the suffix, per library guidelines), so you'd need to change the names of the arguments: but `trs` and `tsr` would do here, and are reasonably mnemonic...

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+record Proset c ℓ : Set (suc (c ⊔ ℓ)) where
+  infix 4 _≤_
+  field
+    Carrier : Set c
+    _≤_ : Rel Carrier ℓ
+    isProset : IsProset _≤_
+
+IsProset⇒IsPartialOrder : ∀ {a ℓ} {A : Set a} {≤ : Rel A ℓ} →
+  IsProset ≤ → IsPartialOrder (SymInterior ≤) ≤
+IsProset⇒IsPartialOrder {≤ = ≤} isProset = record
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:76]: As with other defns inthe `Construct` hierarchy, I think that this would conventionally simply be called `isPartialOrder`, being the proof (in lower-camel-case) of the corresponding `Structure` property (in upper-camel-case`, with the ambient `IsProset⇒` being given implicitly by module-level scoping...

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+transitive′ : Trans R S T → Trans S R T →
+  Trans (SymInterior R) (SymInterior S) (SymInterior T)
+transitive′ trans trans′ (r , r′) (s , s′) = trans r s , trans′ s′ r′
+
+transitive : Transitive R → Transitive (SymInterior R)
+transitive {R = R} tr = transitive′ {R = R} tr tr
+
+-- The symmetric interior of a strict relation is empty.
+Empty-SymInterior : Asymmetric R → Empty (SymInterior R)
+Empty-SymInterior asym (r , r′) = asym r r′
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:58]: `asymmetric⇒empty`?

Also, I think it's not always straightforward as to whther you announce a proposition/predicate instance/relation instance as being empty, or whether you prove it implies/is contained in, the corresponding bottom element `Empty` of the ordering... and here I do confess I'm not clear either what policy the library has, and if it does, what names are recommended here...

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 6]
```diff
@@ -0,0 +1,91 @@
...
+
+-- A reflexive transitive relation _≤_ gives rise to a poset in which the
+-- equivalence relation is SymInterior _≤_.
+record IsProset {a ℓ} {A : Set a} (≤ : Rel A ℓ) : Set (a ⊔ ℓ) where
+  field
+    refl : Reflexive ≤
+    trans : Transitive ≤
```
Comment (jamesmckinna) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:65]: Conventionally, given what you subsequent define as the bundled contents, better to declare the relation argument here also as `_≤_`?

... and even in L26-L30 above?

**Comment by jamesmckinna** [comment]
Have left some comments, mostly about names. But otherwise, I welcome this addition as a very natural, naturally occurring construct. Thanks!

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 2 above)
Comment (laMudri) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:43]: The name is inspired by [`fold` in `Relation.Binary.Construct.Closure.Symmetric`](http://agda.github.io/agda-stdlib/Relation.Binary.Construct.Closure.Symmetric.html#1365). Better name vs consistency.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 6 above)
Comment (laMudri) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:65]: I was remembering the convention from `Algebra.Structures`, which is different to that of `Relation.Binary.Structures`. I find `_≤_` more readable, to be honest, so I'll switch to it here. I don't want to use it in `SymInterior` because it might not be an order relation (not being reflexive or transitive in general).

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 5 above)
Comment (laMudri) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:58]: This looks like another case of the module name necessarily being part of the name (because asymmetric relations are not necessarily empty). Somehow it doesn't feel like the right thing to do in this case, when it's just a single property.

As for `Empty`, this is a new definition in this PR, so there's no convention *to* use it. I hadn't thought of `_⇒ Never`, but I think it's definitionally equal anyway. `Never` also appears to be unused in the library. It feels similar to the difference between `P → ⊥` and `¬ P`.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:43]: Ah yes, an inductive/least  notion yields`fold` (rather than `elim`) while a conductive/greatest yields `unfold` (rather than `intro` etc...)...

... another round in the battle for hearts and minds between an Oxford/haskell lexicon, and a Stockholm/Göteborg/MLTT one...

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:76]: Agree that `ProSet`-related definitions belong 'somewhere else', except that, as you say, best if they don't... for now ;-)

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda]: apologies re primes etc. !

**Comment by jamesmckinna** [comment]
Modulo the possibility of revisiting these names again sometime in the future (and waiting for colleagues to comment on them in the meantime), I'd be happy to proceed with this.

File: src/Relation/Binary/Definitions.agda [hunk 7]
```diff
@@ -229,6 +230,11 @@ Recomputable _∼_ = ∀ {x y} → .(x ∼ y) → x ∼ y
 Universal : REL A B ℓ → Set _
 Universal _∼_ = ∀ x y → x ∼ y
 
+-- Empty - no elements are related
+
+Empty : REL A B ℓ → Set _
+Empty _∼_ = ∀ {x y} → x ∼ y → ⊥
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Definitions.agda:236]: Missing from CHANGELOG.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 8]
```diff
@@ -0,0 +1,91 @@
...
+    trans : Transitive _≤_
+
+record Proset c ℓ : Set (suc (c ⊔ ℓ)) where
+  infix 4 _≤_
+  field
+    Carrier : Set c
+    _≤_ : Rel Carrier ℓ
+    isProset : IsProset _≤_
+
+IsProset⇒IsPartialOrder : ∀ {a ℓ} {A : Set a} {≤ : Rel A ℓ} →
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:74]: The names `IsProset` and `IsPartialOrder` are usually lower case. Furthermore, unless there are multiple different ways of proving that the resultant relation is a partial order, we usually just omit the LHS of the implication, i.e. just `isPartialOrder`. (Otherwise, the proofs above would be named e.g. `transitive=>transitive`)

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 9]
```diff
@@ -0,0 +1,91 @@
...
+transitive : Transitive R → Transitive (SymInterior R)
+transitive {R = R} tr = trans′ {R = R} tr tr
+
+-- The symmetric interior of a strict relation is empty.
+Empty-SymInterior : Asymmetric R → Empty (SymInterior R)
+Empty-SymInterior asym (r , r′) = asym r r′
+
+-- A reflexive transitive relation _≤_ gives rise to a poset in which the
+-- equivalence relation is SymInterior _≤_.
+record IsProset {a ℓ} {A : Set a} (_≤_ : Rel A ℓ) : Set (a ⊔ ℓ) where
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:62]: I'm very dubious about introducing a new record here. Either this record should go in `Relation.Binary.Structures` or it shouldn't exist. I'm leaning towards the latter. It's only two arguments `Reflexive` and `Transitive` after all.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 10]
```diff
@@ -0,0 +1,91 @@
...
+  field
+    Carrier : Set c
+    _≤_ : Rel Carrier ℓ
+    isProset : IsProset _≤_
+
+IsProset⇒IsPartialOrder : ∀ {a ℓ} {A : Set a} {≤ : Rel A ℓ} →
+  IsProset ≤ → IsPartialOrder (SymInterior ≤) ≤
+IsProset⇒IsPartialOrder {≤ = ≤} isProset = record
+  { isPreorder = record
+    { isEquivalence = record
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:78]: We should probably split this proof out into `IsEquivalence (SymInterior ≤)`?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 11]
```diff
@@ -0,0 +1,91 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Symmetric interior of a binary relation
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:4]: Could we have a little bit more description about what an `interior` actually is?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 12]
```diff
@@ -0,0 +1,91 @@
...
+-- SymInterior preserves various properties.
+reflexive : Reflexive R → Reflexive (SymInterior R)
+reflexive refl = refl , refl
+
+trans′ : Trans R S T → Trans S R T →
+  Trans (SymInterior R) (SymInterior S) (SymInterior T)
+trans′ trans-rs trans-sr (r , r′) (s , s′) = trans-rs r s , trans-sr s′ r′
+
+transitive : Transitive R → Transitive (SymInterior R)
+transitive {R = R} tr = trans′ {R = R} tr tr
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:54]: Do this suggest that maybe `trans'` should have an explicit rather than implicit parameter for at least one of the relations?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 13]
```diff
@@ -0,0 +1,91 @@
...
+-- The symmetric interior of R is greater than (or equal to) any other symmetric
+-- relation contained by R.
+unfold : Symmetric S → S ⇒ R → S ⇒ SymInterior R
+unfold sym f s = f s , f (sym s)
+
+-- SymInterior preserves various properties.
+reflexive : Reflexive R → Reflexive (SymInterior R)
+reflexive refl = refl , refl
+
+trans′ : Trans R S T → Trans S R T →
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:49]: Why not call this `trans` instead of `trans'`?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 12 above)
Comment (laMudri) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:54]: It turns out that `R` doesn't need to be given explicitly here. I guess I left it in from a previous definition of `SymInterior`, which required more implicit arguments to be given.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 11 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:4]: Try (and edit as you see fit, @laMudri ): 

"Just as the `P`-closure of a relation `R` for some property `P` is the *least* relation `S` containing `R` such that `P S`, the `P`-*interior* is the *dual* notion, vs. the *greatest* relation `S` *contained in* `R` such that `P S`, for any suitable `P`. Here, we take `P` to be `Symmetric`."

Or some such...

For a citation, you could look at the treatment of 'intersection-closed' and 'union-closed' families of predicates/relations defined in [Paul M. Cohn's "Universal Algebra" (1965)](https://link.springer.com/book/10.1007/978-94-009-8399-1) and their application to defining closures and interiors, and inductive/coinductive definitions generally (see also Peter Aczel's article on inductive definitions in the Handbook of Mathematical Logic (1977) (ISBN: 9780720422856)). NB impredicative definitions! 

Being `Symmetric` is, IIRC, an example of a property which is both intersection- and union-closed, and hence has a corresponding closure and interior, as here.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 13 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:49]: To be honest I think we should ditch the record entirely, and pass `Reflexive` and `Transitive` as arguments directly. I say this because a) that's what we do elsewhere in the library and b) I can find no hits on the internet when searching for variations of `Proset`.

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 11 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:4]: On second thoughts, maybe I should (have) move(d) this comment to the issue, rather than pollute the specific PR addressing it? Will do that, and then you can cherry-pick from there...

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 10 above)
Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:78]: cf. `Relation.Binary.Properties.Preorder.InducedEquivalence`.
I should love to see a downstream reconciliation of all these things.

File: src/Relation/Binary/Definitions.agda (hunk 7 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/Definitions.agda:236]: Still missing

File: src/Relation/Binary/Construct/Interior/Symmetric.agda [hunk 14]
```diff
@@ -0,0 +1,95 @@
...
+
+------------------------------------------------------------------------
+-- Properties
+
+-- A reflexive transitive relation _≤_ gives rise to a poset in which the
+-- equivalence relation is SymInterior _≤_.
+record IsProset {a ℓ} {A : Set a} (_≤_ : Rel A ℓ) : Set (a ⊔ ℓ) where
+  field
+    refl : Reflexive _≤_
+    trans : Transitive _≤_
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Construct/Interior/Symmetric.agda:41]: Did you see my comments about the existence of `IsProset`/`Proset`?

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 5 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:65]: I strongly agree with @jamesmckinna on this one. None of the other results in this file (or similar files) have the name of the relation in the proof.

**Review by MatthewDaggitt — CHANGES_REQUESTED** [review]

File: src/Relation/Binary/Construct/Interior/Symmetric.agda (hunk 14 above)
Comment (laMudri) [reply src/Relation/Binary/Construct/Interior/Symmetric.agda:41]: So, `IsProset` can't be moved to `Relation.Binary.Structures` because of the file-level module parameters (particularly `_≈_`). Perhaps a compromise is to expand it out in the definition of `Proset` and move that to `Relation.Binary.Bundles`. This way, the definition `poset` is retained.

**Review by MatthewDaggitt — APPROVED** [review]

**Comment by MatthewDaggitt** [comment]
I've eliminated `Proset` as well, as I think if want to add those sort of structures in we need to have a convincing story for the whole hierarchy rather a single instance. 

@laMudri if that's okay I propose to merge in?

File: CHANGELOG.md [hunk 15]
```diff
@@ -166,7 +173,42 @@ Additions to existing modules
...
+  ```
+
+* Added new file `Data.Vec.Functional.Relation.Binary.Permutation.Properties`:
   ```agda
-  Empty _∼_ = ∀ {x y} → x ∼ y → ⊥
+  ↭-refl      : Reflexive (Vector A) _↭_
+  ↭-reflexive : xs ≡ ys → xs ↭ ys
+  ↭-sym       : Symmetric (Vector A) _↭_
+  ↭-trans     : Transitive (Vector A) _↭_
+>>>>>>> master
```
Comment (jamesmckinna) [inline CHANGELOG.md:213]: Ugh! What happened here?

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Happy to approve, subject to fixing up the `CHANGELOG` ;-)

**Comment by laMudri** [comment]
Okay, yeah, modulo the issues James has just mentioned.

**Review by jamesmckinna — APPROVED** [review]
Tick!
